US06872730B2
To a solution of [6-(2-{3-[1,1-bis(Methylethyl)-2-methyl-1-silapropoxy]phenoxy}ethyl)(2-pyridyl)]methylamine (1.60 g, 4.0 mmol) in THF (30 ml) under argon at room temperature, was added tetrabutylammonium fluoride (4.4 ml, 4.4 mmol, 1M in THF). After stirring for 15 minutes, a solution of ethyl 5-bromo-4-oxopentanoate (0.98 g, 4.4 mmol) in THF (5 ml) was added. The mixture was stirred for an additional 3 hours. The solvent was removed under vacuum and the remaining residue was chromatographed over silica gel to yield 860 mg (56%) of Ethyl 5-(3-{2-[6-(methylamino)(2-pyridyl)]ethoxy}phenoxy)-4-oxopentanoate. NMR 1H Cl3CD δ: 7.38 (m, 1H), 7.16 (t, 1H, J=8.2 Hz), 7.08 (t, 1H, J=7.9 Hz), 6.64 (m, 1H), 6.45 (m, 3H), 6.26 (dd, 1H, J=8.2, 2.3 Hz), 4.57 (s, 2H), 4.30 (t, 2H, J=6.8Hz), 4.13 (c, 2H, J=7.2 Hz), 3.07 (m, 2H), 2.91 (m, 5H), 2.63 (t, 2H, J=6.6 Hz), 1.24 (t, 3H, J=7.2 Hz).

reactant | [6-(2-{3-[1,1-bis(Methylethyl)-2-methyl-1-silapropoxy]phenoxy}ethyl)(2-pyridyl)]methylamine | 4.0 mmol, 1.60 g | CC(C)[Si](C(C)C)(OC=1C=C(OCCC2=CC=CC(=N2)CN)C=CC1)C(C)C | C23H36N2O2Si
reactant | tetrabutylammonium fluoride | 4.4 mmol, 1M, 4.4 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ethyl 5-bromo-4-oxopentanoate | 4.4 mmol, 0.98 g | BrCC(CCC(=O)OCC)=O | C7H11BrO3
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | Ethyl 5-(3-{2-[6-(methylamino)(2-pyridyl)]ethoxy}phenoxy)-4-oxopentanoate | 860 mg, 56% | CNC1=CC=CC(=N1)CCOC=1C=C(OCC(CCC(=O)OCC)=O)C=CC1 | C21H26N2O5
